US06037495
Synthesis of (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide
Thionyl chloride (3.0 ml) was added to a mixture of 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide (3.0 g), tetrabutylammonium chloride (380 mg) and toluene (30 ml) at room temperature. The mixture was stirred for 10 minutes, and then stirred at 60° C. for 1.5 hours. After the mixture was cooled by allowing it to stand, the solvent was evaporated under reduced pressure. The residue was dissolved in diethyl ether, and washed successively with water and saturated brine. The ether layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, and the resulting residue was dissolved in a small amount of diethyl ether. Hexane was added to the solution to obtain the title compound as crystals (2.6 g, 80%).

reactant | Thionyl chloride | 3.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(2-hydroxymethylphenyl)-2-methoxyimino-N-methylacetamide | 3.0 g | OCC1=C(C=CC=C1)C(C(=O)NC)=NOC | C11H14N2O3
catalyst | tetrabutylammonium chloride | 380 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(2-chloromethylphenyl)-2-methoxyimino-N-methylacetamide | 2.6 g, 80% | ClCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C11H13ClN2O2
